US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 3-(trifluoromethoxy)phenylboronic acid (89.6 mg, 0.43 mmol, 1.50 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (10:1)) afforded 67 mg (55%) of 2-phenyl-3-(3-(trifluoromethoxy)phenyl)quinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 3-(trifluoromethoxy)phenylboronic acid | 0.43 mmol, 89.6 mg, 1.50 equiv | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
product | 2-phenyl-3-(3-(trifluoromethoxy)phenyl)quinoxaline-6-carboxylic acid | 67 mg, 55% | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1C1=CC(=CC=C1)OC(F)(F)F)C(=O)O | C22H13F3N2O3
